### PR TITLE
fix sign error in main theorem of erdos392

### PR DESCRIPTION
**Pull request by teorth**

### CODE REVIEW

File: PrimeNumberTheoremAnd/Erdos392.lean [hunk 1]
```diff
@@ -2039,54 +2039,23 @@ theorem Params.initial.score (ε : ℝ) (hε : ε > 0) :
...
-    have : (0 : ℝ) ≤ n / Real.log n ∧ (0 : ℝ) ≤ ε * n / Real.log n :=
-      ⟨by positivity, by positivity⟩
-    linarith
+    f.total_imbalance = 0 ∧ f.a.card ≤ n - n / Real.log n + ε * n / Real.log n := by sorry
 
 @[blueprint
   "erdos-sol-2"
-  (statement := /-- One can find a factor $n!$ into at least $n/2 - n / 2\log n - o(n / \log n)$
+  (statement := /-- One can find a factor $n!$ into at most $n/2 - n / 2\log n + o(n / \log n)$
   numbers of size at most $n^2$.--/)
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Erdos392.lean:2053]: Should this say: "One can factor $n!$ into..."?

Comment (teorth) [reply PrimeNumberTheoremAnd/Erdos392.lean:2053]: Oops, changing the wording now.
